US07420055B2
Synthesis of N-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-4-(cis-2,6-dimethyl-morpholin-4-yl)-3-fluoro-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of heterocyclyl and heteroaryl substituted phenylsulfonyl derivatives previously described, using 4-Bromo-N-[4-chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-3-fluoro-benzenesulfonamide 0.2 g (0.4 mmol), potassium phosphate tribasic monohydrate 0.570 g (2.4 mmol), rac-2,2′-bis (diphenylphosphino)-1,1′-binaphthyl 0.077 g (0.12 mmol), cis-2,6-dimethyl-morpholine 0.23 g (2 mmol) and Pd (dba)3 0.057 g (0.06 mmol) in 2 ml DMF. HPLC purification gave yellow compound.

reactant | 4-Bromo-N-[4-chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-3-fluoro-benzenesulfonamide | 0.4 mmol, 0.2 g | BrC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)C)F | C19H13BrClFN2O3S
reactant | potassium phosphate tribasic monohydrate | 2.4 mmol, 0.570 g | O.[O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | rac-2,2′-bis (diphenylphosphino)-1,1′-binaphthyl | 0.12 mmol, 0.077 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cis-2,6-dimethyl-morpholine | 2 mmol, 0.23 g | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
catalyst | Pd | 0.06 mmol, 0.057 g | [Pd] | Pd
product | N-[4-Chloro-2-(6-methyl-pyridine-3-carbonyl)-phenyl]-4-(cis-2,6-dimethyl-morpholin-4-yl)-3-fluoro-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)N1C[C@H](O[C@H](C1)C)C)F)C(=O)C=1C=NC(=CC1)C | C25H25ClFN3O4S
